US06180759B2
To a suspension of 82 g of 3-carboxypropyl triphenylphosphonium bromide in 407 mL of 1,2-diethoxyethane at 14° C. is added over 25 minutes 220 g of 20 wt % potassium tert-butoxide in tetrahydrofuran while maintaining the reaction mixture temperature at 24-28° C. The mixture is stirred for 1 hour, cooled to 10° C., and a solution of 52.5 g of 1-phenylmethoxycarbonyl-4-piperidone in 246 mL of methyl tert-butyl ether is added over 30 minutes while maintaining cooling. After addition is complete, the mixture is stirred at 12° C. for 10 minutes, then warmed to 20° C. and stirred for an additional 30 minutes. The reaction mixture is treated with 410 mL of 1N aqueous HCl for 10 minutes, diluted with 328 mL of methyl tert-butyl ether, and then the phases are separated. The organic phase is washed with 205 mL of water, then 210 mL of 1N aqueous NaOH. The NaOH layer, which contains the product, is collected separately, washed with three 189 g portions of ethyl acetate, acidified to pH 3.48 with concentrated HCl, then extracted with 189 mL of ethyl acetate. The ethyl acetate layer is separated, washed with 211 mL of water, then dried for 30 minutes over 10 g of MgSO4, filtered, and concentrated in vacuo. The oily residue (50.7 g) is crystallized from toluene/heptane to afford a total of 29.46 g (51% yield) of 3-(1-phenylmethoxycarbonyl-4-piperidinylmethylene)propanoic acid. Mass Spec: Mcalc. 303, M+1obsvd 304. 1H NMR: (δ vs TMS, CDCl3) 2.2, t (2H); 2.25, t (2H); 2.35, m (4H); 3.45, m (4H), 5.15, s (2H); 5.2, m (1H); 7.33, 2 (5H). 13C NMR (δ vs TMS, CDCl3) 22.43, 28.2, 34.26, 35.66, 44.88, 45.74, 67.20, 122.02, 127.83, 127.95, 128.45, 128.69, 128.90, 136.17, 136.72, 155.34, 178.39

reactant | 3-carboxypropyl triphenylphosphonium bromide | 82 g | [Br-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 1-phenylmethoxycarbonyl-4-piperidone | 52.5 g | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | HCl | 1N, 410 mL | Cl | ClH
solvent | 1,2-diethoxyethane | 407 mL | C(C)OCCOCC | C6H14O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methyl tert-butyl ether | 246 mL | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 328 mL | C(C)(C)(C)OC | C5H12O
product | 3-(1-phenylmethoxycarbonyl-4-piperidinylmethylene)propanoic acid | 29.46 g, 51% yield | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)C=CCC(=O)O | C17H21NO4
